US08871767B2
2,2-dimethyl-N-[2-methyl-5-[6-(3-methylaminopyrrolidin-1-yl)imidazo[2,1-f]pyridazin-2-yl]phenyl]propanamide
An small microwave vial is charged butanol (0.183 mL), diisopropylethylamine (0.122 mL, 0.7 mmol), N-methylpyrrolidin-3-amine (0.050 g, 0.5 mmol), and N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide (0.0397 g, 0.1 mmol). The vial is sealed and heated at 180° C. for 30 min in microwave. The mixture is concentrated, taken up in DMSO and purified on reverse phase preparative HPLC with gradient (15% B:85% A to 100% B, where solvent A=95% water, 5% acetonitrile and 0.1% TFA; solvent B=90% acetonitrile, 10% water and 0.1% TFA) to give the title compound (0.006 g, 15% yield). LCMS m/z=407.6 [M+H]+, tR=1.32 min. (compound same as Example 360)

reactant | diisopropylethylamine | 0.7 mmol, 0.122 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylpyrrolidin-3-amine | 0.5 mmol, 0.050 g | CNC1CNCC1 | C5H12N2
reactant | N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide | 0.1 mmol, 0.0397 g | ClC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C18H19ClN4O
solvent | butanol | 0.183 mL | C(CCC)O | C4H10O
product | 2,2-dimethyl-N-[2-methyl-5-[6-(3-methylaminopyrrolidin-1-yl)imidazo[2,1-f]pyridazin-2-yl]phenyl]propanamide | 0.006 g, 15% yield | CC(C(=O)NC1=C(C=CC(=C1)C=1N=C2C=CC(=NN2C1)N1CC(CC1)NC)C)(C)C | C23H30N6O
